US09193694B2
A solution of 5-bromo-2-fluorobenzoic acid (1 mmol), benzyl(S)-valinol (1 mmol), HATU (1 mmol) and diisopropylethylamine (3 mmol) in DMF (3 mL) was stirred at room temperature for 30 minutes. The reaction mixture was poured into a 1:1 solution of 1M HCl and brine and extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate solution and brine, dried and concentrated. The resided was taken up in a mixture of toluene, isopropanol and water (1 mL each) and added to a flask containing 4-trifluoromethylphenyl boronic acid (3 mmol), K2CO3 (3 mmol) and dppfPdCl2 (40 mg) under nitrogen. The reaction mixture was stirred at 90° C. for 1 h. The organic layer was separated and concentrated before being purified by flash chromatography (rf=0.28 in 2:1 hexanes/ethyl acetate) to give a viscous oil. The product was dissolved in DMF (5 mL) and sodium hydride was added (5 mmol). The reaction mixture was stirred at room temperature for 40 minutes and was poured into a 1:1 solution of 1M HCl and brine and extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate solution and brine, dried and concentrated before being purified by flash chromatography (rf=0.59 in 2:1 hexanes/ethyl acetate) to give (S)-4-benzyl-3-methyl-7-(4-(trifluoromethyl)phenyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one as an oil.

reactant | 5-bromo-2-fluorobenzoic acid | 1 mmol | BrC=1C=CC(=C(C(=O)O)C1)F | C7H4BrFO2
reactant | benzyl(S)-valinol | 1 mmol | C(C1=CC=CC=C1)N[C@@H](C(C)C)CO | C12H19NO
reactant | HATU | 1 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 3 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 1M | Cl | ClH
reactant | 4-trifluoromethylphenyl boronic acid | 3 mmol | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | K2CO3 | 3 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium hydride | [H-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | dppfPdCl2 | 40 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-4-benzyl-3-methyl-7-(4-(trifluoromethyl)phenyl)-3,4-dihydrobenzo[f][1,4]oxazepin-5(2H)-one | C(C1=CC=CC=C1)N1[C@H](COC2=C(C1=O)C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F)C | C24H20F3NO2
